US07977367B2
Intermediate: 3-(methylsulfonyl)-1H-1,2,4-triazole (I-5a)
To a stirred solution of 3-methylthio-4H-1,2,4-triazole (1.00 g; Oakwood Products, Inc., West Columbia, S.C.) in THF (20 mL) and water (20 mL) was added potassium peroxomonosulfate (Oxone®, DuPont Specialty Chemicals, Deepwater, N.J., USA) (10.7 g). After stirring at room temperature for a day, the reaction mixture was filtered and the filtercake was washed with THF. The filtrate was partitioned between water and ethyl acetate, the bilayer was separated and the aqueous portion was extracted twice with ethyl acetate. The combined organic extracts were dried over MgSO4, filtered, and the filtrate concentrated under reduced pressure. The resulting residue was purified by flash chromatography (SiO2, ethyl acetate/methanol, 0-10%) to afford 0.496 g of (I-5a) as a white solid. m/z 148.1 (M+H)+.

reactant | 3-methylthio-4H-1,2,4-triazole | 1.00 g | CSC1=NN=CN1 | C3H5N3S
reactant | potassium peroxomonosulfate | 10.7 g | S(=O)(=O)(O[O-])[O-].[K+].[K+]
reactant | THF | 20 mL | C1CCOC1 | C4H8O
solvent | water | 20 mL | O | H2O
product | 3-(methylsulfonyl)-1H-1,2,4-triazole | CS(=O)(=O)C1=NNC=N1 | C3H5N3O2S
